US07371747B2
Cyclopentane-1,2-dicarboxylic acid dimethyl ester (2.50 g, 13.4 mmol) was dissolved in methanol (2.5 mL) and a solution of potassium hydroxide (85% purity) (920 mg, 13.9 mmol) in methanol (4.0 mL) and water (0.5 mL) in a 25 mL round bottom flask. The reaction mixture was heated at 75° C. for 4 h. The reaction mixture was cooled to 0° C. and acidified to pH 2 with 2M HCl in water. The reaction mixture was diluted with water (100 mL) and extracted with ether. The organic layer was dried over anhydrous magnesium sulfate and concentrated on a rotary evaporator to give cyclopentane-1,2-dicarboxylic acid monomethyl ester as a faint-yellow liquid.

reactant | Cyclopentane-1,2-dicarboxylic acid dimethyl ester | 13.4 mmol, 2.50 g | COC(=O)C1C(CCC1)C(=O)OC | C9H14O4
reactant | potassium hydroxide | 13.9 mmol, 920 mg | [OH-].[K+]
reactant | HCl | 2M | Cl | ClH
solvent | methanol | 2.5 mL | CO | CH4O
solvent | methanol | 4.0 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | cyclopentane-1,2-dicarboxylic acid monomethyl ester | COC(=O)C1C(CCC1)C(=O)O | C8H12O4
